US07119122B2
4-Bromo-2-fluorobenzonitrile (0.41 g, 2.0 mmol), 3-hydroxy-2-methoxybenzaldehyde (0.31 g, 2.0 mmol) and cesium carbonate (0.66 g, 2.0 mmol) were heated with stirring in dry DMF (4 mL) at 50° C. for 18 h. The reaction mixture was cooled, poured into water and extracted with ethyl acetate. The ethyl acetate layer was separated, washed with 1N sodium hydroxide solution (2×), water (1×), brine (1×), and dried over MgSO4. After filtration, the solvent was removed in vacuo to yield 4-bromo-2-(3-formyl-2-methoxyphenoxy)-benzonitrile (0.55 g, 81%) as a yellow solid.

reactant | 4-Bromo-2-fluorobenzonitrile | 2.0 mmol, 0.41 g | BrC1=CC(=C(C#N)C=C1)F | C7H3BrFN
reactant | 3-hydroxy-2-methoxybenzaldehyde | 2.0 mmol, 0.31 g | OC=1C(=C(C=O)C=CC1)OC | C8H8O3
reactant | cesium carbonate | 2.0 mmol, 0.66 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 4-bromo-2-(3-formyl-2-methoxyphenoxy)-benzonitrile | 0.55 g, 81% | BrC1=CC(=C(C#N)C=C1)OC1=C(C(=CC=C1)C=O)OC | C15H10BrNO3
